US06897224B2
4-(5-Fluoro-2-hydroxyphenyl)-4-methyl-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)-pentan-2-ol
Analogously to Example 35, 153 mg (0.34 mmol) of 4-(5-fluoro-2-methoxyphenyl)-4-methyl-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)-pentan-2-ol in 17 ml of CH2Cl2 is reacted with 6.8 ml of 1M boron tribromide-CH2Cl2 solution. After chromatography on silica gel with hexane-ethyl acetate (0-55%), 99 mg of the product is obtained.

reactant | 4-(5-fluoro-2-methoxyphenyl)-4-methyl-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)-pentan-2-ol | 0.34 mmol, 153 mg | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F)(C)C)OC | C24H26F4N2O2
reactant | boron tribromide CH2Cl2 | 1M, 6.8 ml | B(Br)(Br)Br.C(Cl)Cl
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | CH2Cl2 | 17 ml | C(Cl)Cl | CH2Cl2
product | 4-(5-Fluoro-2-hydroxyphenyl)-4-methyl-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)-pentan-2-ol | 99 mg | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F)(C)C)O | C23H24F4N2O2
